US07790756B2
A solution of (4-(4-amino-3-fluorophenoxy)pyridin-2-yl)methanol (750 mg, 3.2 mmol) and Et3N (821 mg, 8 mmol) in DMF (10 ml) at 0° C. was treated with tert-butyldimethylsilyl chloride (624 mg, 4.16 mmol). The resulting solution was stirred at RT for 4 hours. The solvent was removed in vacuo and the residue was purified by silica gel column chromatography to provide 4-(2-((tert-butyldimethylsilyloxy)methyl)pyridin-4-yloxy)-2-fluorobenzenamine (370 mg, 33% yield). 1H NMR (400 MHz, DMSO-d6) δ 8.32 (d, J=5.6 Hz, 1H), 7.02 (s, 1H), 6.67-6.82 (m, 4H), 4.76 (s, 2H), 3.71 (s, 2H), 0.89 (s, 9H), 0.07 (s, 6H); MS (ESI) m/z: 349.2 (M+H+).

reactant | (4-(4-amino-3-fluorophenoxy)pyridin-2-yl)methanol | 3.2 mmol, 750 mg | NC1=C(C=C(OC2=CC(=NC=C2)CO)C=C1)F | C12H11FN2O2
reactant | Et3N | 8 mmol, 821 mg | CCN(CC)CC | C6H15N
reactant | tert-butyldimethylsilyl chloride | 4.16 mmol, 624 mg | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | 4-(2-((tert-butyldimethylsilyloxy)methyl)pyridin-4-yloxy)-2-fluorobenzenamine | 370 mg, 33% yield | [Si](C)(C)(C(C)(C)C)OCC1=NC=CC(=C1)OC1=CC(=C(C=C1)N)F | C18H25FN2O2Si
